US08895582B2
To a solution of 4-nitrophenylchloroformate (7.04 g, 34.9 mmol) in THF (100 mL) was added a solution of 2,3-difluorobenzylamine (4.26 mL, 36.4 mmol) and DIEA (13.2 mL, 75.9 mmol) in THF (20 mL). The resulting solution was stirred at RT for 20 min. The reaction solution was added into a solution of (S)-1-(tert-butyldimethylsilyloxy)-N-methylpent-4-en-2-amine (31.9 mmol) in THF (50 mL). The resulting solution was stirred at RT overnight. The solvent was removed and the resulting residue was re-dissolved in EtOAc (500 mL). The organic mixture was washed with NaOH (1 N, 100 mL×3), HCl (0.5 N, 100 mL), saturated NaHCO3, and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel column using a mixture of DCM and MeOH to give (S)-1-(1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl)-3-(2,3-difluorobenzyl)-1-methylurea (6.8 g, 49%) as a white solid. LRMS (M+H+) m/z 399.2.

reactant | 4-nitrophenylchloroformate | 34.9 mmol, 7.04 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 2,3-difluorobenzylamine | 36.4 mmol, 4.26 mL | FC1=C(CN)C=CC=C1F | C7H7F2N
reactant | DIEA | 75.9 mmol, 13.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-1-(tert-butyldimethylsilyloxy)-N-methylpent-4-en-2-amine | 31.9 mmol | [Si](C)(C)(C(C)(C)C)OC[C@H](CC=C)NC | C12H27NOSi
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl)-3-(2,3-difluorobenzyl)-1-methylurea | 6.8 g, 49% | [Si](C)(C)(C(C)(C)C)OC[C@H](CC=C)N(C(=O)NCC1=C(C(=CC=C1)F)F)C | C20H32F2N2O2Si
